Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metformin / enalapril
 
Attending: ___.
 
Chief Complaint:
Tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/Hx of CKD, ___ transferred from ___ outpatient for new 
onset atrial flutter.
Patient notes that he was in his usual state of health until 
last ___, 6 days prior to presentation, when he began 
experiencing rigors/shakes/chills at night, that worsened over 
the course of the week. He also notes dysuria and increased 
frequency with small amounts of urine since ___. 
He presented to ___ outpatient for the above symptoms ___, 
1 day prior to admission, where some tests were done, including 
CMP with bump in Cr to 3.6 and WBC 16K, and he was told he had a 
UTI, and an abx was called in for him. He notes he was told to 
return for repeat tests on ___ (CBC/CMP), day of admission, 
and since he had left already, decided he would pick up his abx 
when he returned. Of note, given rise in Cr he was told to stop 
taking his losartan-HCTZ, but took it the next morning (forgot 
to remove from pill box). He continued with rigors/chills, as 
well as dysuria, frequency, and upon presentation on ___ to 
At___, he was noted to be tachycardic to 130s, in aflutter to 
143 ___levation inferior-laterally, with increased WBC to 
20 with 80% PMNs, Cr 3.9, was given a full dose 325mg ASA, and 
was sent to our ED.
He denies palpiations, chest pain, presyncope, 
lightheadedness/dizziness, or dyspnea. Denies any abdominal 
pain, and no trouble with eating or drinking at home. Had one 
episode of diarrhea earlier in the week, none since. On ROS, 
only other symptom he endorsed was weakness over last few days. 
Also notes R low back pain from mechanical fall 1 week ago on 
the ice, prior to the above symptoms, which is improving. 
Patient largely lives alone, ___ lives with him but not 
around much, and patient takes his own medications using a pill 
box he fills each week.
In the ED, initial vitals: 98.4 80 117/58 16 98% RA
Labs/Studies notable for: UA with 11 WBCs, 2 RBCs, negative 
nitrites, 100 protein, few bacteria, <1 epi; WBC 19.5, H/H 
11.7/35.3 (baseline hgb ___, Plt 219, BUN 58, Cr 3.6 
(baseline <2). A CXR showed no acute process. The patient 
received 1gm of ceftriaxone, 20mg IV of diltiazem, and 30mg of 
PO Diltiazem, and was admitted to the floor. Overnight, 
converted to sinus rhythm on telemetry.
This morning feels symptoms improved, with less frequency and 
decreased dysuria. Notes chills/rigors overnight, but none 
today. Denies any CP, SOB, abdominal pain, no N/V.
Please see nightfloat admission note for home medications, 
allergies, FH, and SH, which I have confirmed with the patient.
 
Past Medical History:
-Coronary artery disease
___: LAD 80% - stented w/ bare metal stent
___: presents w/ unstable angina. Right dominant system 
with a distal 70% lesion in the right coronary artery. He had a 
complex ___ lesion in the previously placed bare-metal stent in 
the proximal LAD (before BMS) and had a 70% circumflex lesion. 
All of these vessels were dilated and stented with one 
drug-eluting stent in each
-Hypertension, essential
-Esophageal reflux
-Cancer of prostate (dx in ___, per pt and Atrius records no 
treatment, given pt has been reluctant)
-Hypercholesterolemia
-KIDNEY DISEASE - CHRONIC STAGE III (MODERATE, EGFR ___ 
ML/MIN)
-Iron deficiency anemia
-Cataract incipient, senile
-Asteroid hyalosis
-Cupping of optic disc
-Type 2 diabetes mellitus, controlled, with renal complications
-Hx of declining colon CA screening
 
Social History:
___
Family History:
He had a paternal grandfather with coronary disease and his 
mother died of a stroke. Sister died of complications of 
diabetes, brother died related to meth use about a year ago. 
Many of Sister's children with DM. No other known family 
history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
====================
Vitals: 97.8 107/64 P81 RR18 100% RA
General: AAOx3, comfortable appearing, in NAD
HEENT: NCAT, EOMI, PERRL. Sclera anicteric, conjunctiva pink. 
MMM. OP clear.
Neck: supple, no LAD, no JVP elevation
Lungs: CTAB, no w/r/r
CV: RRR, normal S1 and S2, no m/g/r
Abdomen: NABS, soft, nondistended, nontender. No HSM.
GU: no foley
Ext: WWP. 2+ peripheral pulses. No edema.
Neuro: CNs II-XII intact. MAEE. Grossly normal strength and 
sensation.

DISCHARGE PHYSICAL EXAM:
====================
Vitals: Tm 99.3, Tc 97, HR 68 (48-74), BP 142/85, RR ___, O2 
Sat 98-100%RA
FSBS ___ yesterday
General: NAD, sitting in chair, conversant
HEENT: NC/AT, sclera anicteric, EOMI, PERRL, clear posterior OP, 
no lesions, tongue midline, MMM
Lymph: No LAD
CV: RRR, normal S1/S2, no murmurs/rubs/gallops
Lungs: CTAB, no accessory muscle use, no wheezes/rales
Abdomen: +BS, soft, nontender, nondistended
GU: No foley
Ext: warm and well perfused ankles/wrists, cool fingers, 2+ 
peripheral pulses, no edema
Skin: No lesions/excoriations/rashes
 
Pertinent Results:
==== ADMISSION LABS ====
___ 04:15PM BLOOD WBC-19.5* RBC-3.90* Hgb-11.7* Hct-35.3* 
MCV-91 MCH-30.0 MCHC-33.1 RDW-14.5 Plt ___
___ 04:15PM BLOOD Neuts-83.9* Lymphs-8.4* Monos-7.2 Eos-0.2 
Baso-0.2
___ 01:10PM BLOOD ___ PTT-52.7* ___
___ 04:15PM BLOOD Glucose-173* UreaN-58* Creat-3.6* Na-132* 
K-4.1 Cl-97 HCO3-17* AnGap-22*
___ 05:47AM BLOOD Calcium-8.6 Phos-1.6* Mg-2.0
___ 04:15PM BLOOD TSH-2.2
___ 04:20PM BLOOD Lactate-2.0
___ 05:53PM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:53PM URINE Blood-SM  Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-TR
___ 05:53PM URINE RBC-2 WBC-11* Bacteri-FEW Yeast-NONE 
Epi-<1
___ 05:53PM URINE CastGr-8* CastHy-31*
___ 05:53PM URINE Mucous-RARE
___ 04:26PM URINE Hours-RANDOM UreaN-695 Creat-86 Na-47 
K-22 Cl-40
___ 04:26PM URINE Osmolal-425

==== DISCHARGE LABS ====
___ 07:00AM BLOOD WBC-15.6* RBC-3.68* Hgb-11.2* Hct-32.2* 
MCV-88 MCH-30.6 MCHC-34.9 RDW-15.2 Plt ___
___ 07:00AM BLOOD ___ PTT-31.2 ___
___ 07:00AM BLOOD Glucose-92 UreaN-35* Creat-1.8* Na-139 
K-4.7 Cl-104 HCO3-22 AnGap-18
___ 07:00AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.9

==== MICROBIOLOGY ====
___ BLOOD CULTURES X2: No growth

___ 5:53 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S

==== IMAGING ====
___ ECG:
Atrial flutter with variable block and rapid ventricular 
response. No previous tracing available for comparison.

___ CXR:
No acute cardiopulmonary process.

___ ECG:
Atrial fibrillation with a relatively controlled ventricular 
response. Premature ventricular contractions versus aberrantly 
conducted supraventricular complexes. Compared to tracing #2 
coarse atrial fibrillation has replaced atrial flutter and 
overall ventricular response is somewhat slower.

___ RENAL US:
1. No evidence of hydronephrosis.
2. Enlarged prostate.

___ TRANSTHORACIC ECHO:
IMPRESSION: Prominent flow in the right atrium c/w possible 
atrial septal defect. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
Mildly dilated aortic arch. 

If clinically indicated, a TEE would be better able to assess 
the etiology of the prominent right atrial flow.
 
Brief Hospital Course:
Mr. ___ is a ___ w/Hx of CKD, ___ transferred from ___ 
for new onset atrial flutter.

ACTIVE ISSUES:
============
#Atrial flutter
Patient presented with chills/rigors, with dysuria, noted to be 
in atrial flutter in the outpatient setting, sent in to our ED. 
Patient's atrial flutter felt to be possibly precipitated by a 
UTI, and broke soon after admission with IV dilt and PO dilt, 
transitioned to metoprolol for rate control given history of 
CAD. However, patient noted to be persistently bradycardic on 
telemetry ___, asymptomatic), so metoprolol was downtitrated 
to metoprolol succinate 12.5mg daily, with improved heart rates. 
TSH checked and was normal (2.2). Given CHADS Vasc of 4, was 
bridged with heparin to coumadin for anticoagulation (new 
medication for this patient), and INR on discharge was 2.7 on 
5mg coumadin daily. Given his CKD, patient is not a good 
candidate for novel anticoagulation agents. His plavix was also 
stopped given cardiac stents placed a number of years ago, and 
in the setting of starting coumadin, discussed with outpatient 
cardiologist Dr. ___ was in agreement with coumadin and 
aspirin, and stopping plavix. ___ PCP, ___ to 
monitor INR. Patient was set up with outpatient ___ services for 
home services evaluation and medication reconciliation. Consider 
EP consult/cards follow up for ablation if aflutter recurs in 
future.

ECHO was done this admission given last done ___ years ago, 
LVEF>55%. Some concern for possible ASD, recommend TEE to 
further evaluate. Given no symptoms, no hypoxia, and already 
anticoagulated, deferred to outpatient setting. 

#UTI
Patient with dysuria, rigors/chills, with leukocytosis to 20, 
initially started on IV ceftriaxone, transitioned to PO 
ampicillin once urine cultures grew enterococcus sensitive to 
amp. Plan for 7 day course of ampicillin, last dose morning of 
___. Patient's leukocytosis improving, though still elevated 
by time of discharge, afebrile. Had some loose stool initially, 
improved by time of discharge, but advised patient to call PCP 
if any worsening diarrhea to test for cdiff given antibiotics 
exposure.

#Acute on chronic kidney disease
Patient had AoCKD on admission with Cr to 3.6 from baseline 
1.6-1.8, likely related to UTI and possible cardiac congestion 
from initial aflutter, improved with fluids and treatment of 
UTI, back to baseline by time of discharge. Renal US was done 
which showed enlarged prostate, without evidence of obstruction 
(no hydronephrosis).

CHRONIC ISSUES:
====================
#DM II: Per patient well controlled fsbs at home, usually 100s 
(rarely >200), on NPH 48 units at breakfast, 10 units at 
dinnertime, no sliding scale. Last Hgb A1c on ___ was 6.3 
(similar to prior). FSBS here ranging 56-151. Continued on home 
NPH and humalog sliding scale while inpatient.

#CAD: No ECG changes or clinical symptoms suggestive of active 
ischemia. Follows with atrius cards. Continued home aspirin, 
statin, metop started per above for aflutter, ECHO this 
admission with LVEF >55%.

#Anemia:
No evidence of active bleeding this admission, stool guaiac 
negative x3.  Continued on ferrous sulfate supplementation.

TRANSITIONAL ISSUES:
=======================
# Continue ampicillin 500mg q8 for total 7 day course, last dose 
in AM of ___.
# Started on warfarin 5mg daily for atrial flutter with high 
chads vasc score of 4, INR to be followed by Atrius PCP. 
Recommend next INR check on ___.
# Losartan/HCTZ held on admission in the setting of ___, 
restarted on discharge.
# Amlodipine held on admission as pressures were low-normal in 
the setting of UTI, restarted at time of discharge.
# Patient had intermittent loose stools, improved by discharge. 
Told patient to call PCP if this worsens.
# Consider EP consult/cards follow up for ablation if aflutter 
recurs in future.
# Consider TEE in future given concern for ASD on TTE this 
admission, no concerning symptoms this admission.
# Code: Full (confirmed)
# Emergency Contact: ___. ___
Health Care Proxy = ___ (daughter), 
___ (confirmed on ___ with patient at ___ 
visit)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.25 mcg PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. Amlodipine 10 mg PO DAILY 
7. NPH 48 Units Breakfast
NPH 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
8. Clopidogrel 75 mg PO DAILY 
9. losartan-hydrochlorothiazide 100-12.5 mg oral daily 
10. Sildenafil 100 mg PO PRN ed 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. Pantoprazole 20 mg PO Q24H 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcitriol 0.25 mcg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. NPH 48 Units Breakfast
NPH 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Pantoprazole 20 mg PO Q24H 
8. Pravastatin 40 mg PO QPM 
9. Ampicillin 500 mg PO Q8H 
This is a new medication to treat your urinary tract infection. 
RX *ampicillin 500 mg 1 capsule(s) by mouth every 8 hours Disp 
#*15 Capsule Refills:*0
10. Metoprolol Succinate XL 12.5 mg PO DAILY 
This is a new medication to treat your fast heart rate. 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0
11. Warfarin 5 mg PO DAILY16 
This is a new medication to help thin you blood to prevent 
clots. 
RX *warfarin 1 mg 5 tablet(s) by mouth daily Disp #*70 Tablet 
Refills:*0
12. Amlodipine 10 mg PO DAILY 
13. Sildenafil 100 mg PO PRN ed 
14. losartan-hydrochlorothiazide 100-12.5 mg oral daily 
15. Outpatient Lab Work
ICD-9 Diagnosis Code ___: Atrial flutter
Please check INR on ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
- Atrial flutter
- Enteroccous urinary tract infection
- Acute on chronic kidney injury

Secondary Diagnoses:
- Coronary artery disease
- Type II diabetes mellitus
- Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent hospital 
stay at the ___. You came in 
feeling unwell with painful urination, chills and shakes, and 
were found to have a urinary tract infection, as well as fast 
heart rates likely from this infection. You were given 
antibiotics for your bladder infection, and medications to help 
bring your heart rate back to a normal level. You will continue 
to take your antibiotic at home, last dose will be the morning 
of ___ morning). You were also started on a new 
medication to help control your heart rates, called metoprolol, 
and you will continue taking this medication once in the morning 
every day until you see your cardiologist Dr. ___.  Lastly, 
because with fast heart rates like yours was puts you at risk 
for forming clots, you were started on a blood thinner called 
coumadin to try and prevent blood clots in the future. You will 
continue to take this medication once every day, and you will 
have to get your blood levels checked on a regular basis to 
ensure your blood stays thin. 

Lastly, because we started a new blood thinner medication, 
coumadin, you no longer need to continue your plavix medication, 
as it can increase your risk of bleeding. We spoke with your 
cardiologist Dr. ___ agreed to stop plavix. 

We have also arranged for home nurses to visit to help with 
medication management given all of your new medications. Your 
medications are listed below, along with your future follow up 
appointments. It is very important that you take all your 
medications as directed, especially the coumadin medication, and 
go to all of your follow up appointments to make sure things are 
going well. 

Also, if you have worsening loose stools, please contact your 
doctor immediately. 

We wish you the best with your health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___